US09120756B2
Step j10: Ethyl 2-(3-fluoro-4-nitrophenyl)-2-phenylacetate
9.8 g of potassium tert. butylate were dissolved in 90 ml of DMF and cooled to −45° C. For this purpose, a mix of ethyl 2-chloro-2-phenylacetate (43.8 mmol, 8.7 g) and 1-fluoro-2-nitrobenzene (43.8 mmol, 4.6 ml) was carefully added dropwise and the mixture was stirred for a further 20 minutes. The reaction mix was set to pH 4 using 16% HCl, diluted with 25 ml of water and extracted with EE (3×50 ml). Once combined, the organic phases were washed with water and sat. aq. NaCl sol., dried over MgSO4 and concentrated under vacuum. The residue obtained was purified by column chromatography (silica gel: mesh 100-200, eluent: 10% EE in cyclohexane) and produced 5.9 g (44.9%) of product.

reactant | ethyl 2-chloro-2-phenylacetate | 43.8 mmol, 8.7 g | ClC(C(=O)OCC)C1=CC=CC=C1 | C10H11ClO2
reactant | 1-fluoro-2-nitrobenzene | 43.8 mmol, 4.6 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | HCl | Cl | ClH
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
solvent | water | 25 ml | O | H2O
product | Ethyl 2-(3-fluoro-4-nitrophenyl)-2-phenylacetate | 5.9 g, 44.9% | FC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C1=CC=CC=C1 | C16H14FNO4
